US09169254B2
Iron (2.34 g, 41.8 mmol) and acetic acid (0.80 mL, 14.0 mmol) were added to a mixed solution of 2-bromo-1-chloro-3-methyl-5-nitro-benzene (3.50 g, 14.0 mmol) in ethanol (15 mL)-water (31 mL) at room temperature. The mixture was stirred at 100° C. for one hour, and a saturated aqueous sodium bicarbonate solution was then added at 0° C. The mixture was filtered through celite, and the filtrate was washed with ethyl acetate and water. The filtrate was concentrated under reduced pressure. Ethyl acetate was then added, and the organic layer and the aqueous layer were separated. The aqueous layer was repeatedly extracted with ethyl acetate three times, and the organic layers were then dried over sodium sulfate. The resulting residue was concentrated under reduced pressure to give 4-bromo-3-chloro-5-methyl-phenylamine as a pale brown solid (3.01 g, 98%).

reactant | acetic acid | 14.0 mmol, 0.80 mL | C(C)(=O)O | C2H4O2
reactant | 2-bromo-1-chloro-3-methyl-5-nitro-benzene | 14.0 mmol, 3.50 g | BrC1=C(C=C(C=C1C)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | water | 31 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Iron | 41.8 mmol, 2.34 g | [Fe] | Fe
product | 4-bromo-3-chloro-5-methyl-phenylamine | 3.01 g, 98% | BrC1=C(C=C(C=C1C)N)Cl | C7H7BrClN
